US07932282B2
A solution of 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate (180 mg, 0.9 mmol) (prepared as described in step (i) of Example 49 from 5-(1,1-dimethylethyl)1-(phenylmethyl)3-methyl-2-oxo-1,5-imidazolidinedicarboxylate, itself prepared as described in step (ii) of Example 13, starting originally from (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid) in N,N-dimethylformamide (10 ml), under argon at −35° C., was treated with sodium hydride (60% dispersion in oil) (36.0 mg, 0.900 mmol). The mixture was stirred at −35° C. for 15 minutes and then 2,2,2-trifluoroethyl trichloromethanesulfonate (507 mg, 1.800 mmol) was added and the reaction mixture was stirred at −35° C. for 2 hours (the temperature increased slowly to −15° C.). The reaction was quenched with water (5 ml) and allowed to warm to room temperature and the reaction mixture was extracted with ethyl acetate (2×20 ml). The organic layer was separated, washed with saturated sodium hydrogen carbonate solution (10 ml), water (2×10 ml) and brine (20 ml) and evaporated. The residue was purified by silica gel chromatography eluting with 10-100% ethyl acetate in isohexane to give 1,1-dimethylethyl 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylate (107 mg, 42%). LC/MS [M+H]+=283. (ii) A solution of 1,1-dimethylethyl 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylate (107 mg, 0.379 mmol) in TFA/DCM (1:2, 3 ml) was stirred at room temperature for 4 hours. The solution was evaporated and the residue was co-evaporated with dichloromethane and dried to give crude 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylic acid (assume ˜0.38 mmol) which was used in the next reaction. LC/MS [M+H]+=227.

reactant | 1,1-dimethylethyl 1-methyl-2-oxo-4-imidazolidinecarboxylate | 0.9 mmol, 180 mg | CN1C(NC(C1)C(=O)OC(C)(C)C)=O | C9H16N2O3
reactant | (4S)-2-oxo-3-{[(phenylmethyl)oxy]carbonyl}-4-imidazolidinecarboxylic acid | O=C1NC[C@H](N1C(=O)OCC1=CC=CC=C1)C(=O)O | C12H12N2O5
reactant | sodium hydride | 0.900 mmol, 36.0 mg | [H-].[Na+]
reactant | 2,2,2-trifluoroethyl trichloromethanesulfonate | 1.800 mmol, 507 mg | ClC(S(=O)(=O)OCC(F)(F)F)(Cl)Cl | C3H2Cl3F3O3S
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1,1-dimethylethyl 1-methyl-2-oxo-3-(2,2,2-trifluoroethyl)-4-imidazolidinecarboxylate | 107 mg, 42% | CN1C(N(C(C1)C(=O)OC(C)(C)C)CC(F)(F)F)=O | C11H17F3N2O3
